datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCCCC[Si:11](CCCCCC)(CCCCCC)[H:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CCCCCC[Si+:11](CCCCCC)CCCCCC.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+].FC(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([H:10])C1C2C43 10,11=10,20;20,21=21"
"C1=CC=C([P:61](C2=CC=CC=C2)([CH:10]=[C:11]=[N-:12])=[O:62])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH:10]([C:11]#[N:12])[P:61](C2=CC=CC=C2)(C2=CC=CC=C2)=[O:62])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1 10,11=10,20;12=11,12"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12]1CCOCC1)=[O:62].O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12]1CCOCC1)[C:20]([S-:21])=[N:31]C1=CC=C([N+](=O)[O-])C=C1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.F[B-](F)(F)[C:11]1=[CH:10][O:14][CH:13]=[CH:12]1>>F[B-](F)(F)[C:11]1=[CH:12][CH:13]=[O+:14][CH:10]1[C:20]1(C2=CC=CC=C2)[S:31]CC[S:41]1 10,11=10,20;12,13=11,12;14=13,14"
"C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](Cl)=[CH:72]2.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>C[C:11]1=[NH+:12][C:62]2=[C:61]([CH:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1)[CH:72]=[C:73](Cl)[CH:64]=[CH:63]2 10,11=10,20;12=11,12"
"CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11].FC(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CC1=CC=[C:10]([CH2:20][C:21]2=[C:22]([O-:23])[O:33]CC2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"N#C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>N#C[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>CC(C)(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>[O-][N+]1=[C:33]2[C:32](=NO1)[C:21](=[N+:22]([O-])[O-:23])[CH:20]([NH+:10]1CCC[C@H]1CN1CCCC1)[C:41]1=[N+:42]([O-])O[N:35]=[C:34]21 10=20;20,21=21,22;22,23=23"
